US06949542B2
4-[3-(2-Methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 1,2-phenylendiamine (108 mg, 1.0 mmol) and 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K12) (311 mg, 1.0 mmol) in xylene (20 ml) under reflux conditions for 2 h according to the general procedure M. Obtained as an off-white solid (230 mg, 70%).

reactant | 1,2-phenylendiamine | 1.0 mmol, 108 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 311 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C19H21NO3
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[3-(2-Methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=CC=C2 | C21H17N3O
